US05686458
Preparation 1-5: 1-Trifluoromethyl-1,2,3,4-Tetrahydroisoquinoline
In accordance with the same procedures as in Preparation 1-1, except that 25 ml of phenethylamine(0.2M) and 30 ml of anhydrous trifluoroacetic acid(0.21M) were used as starting materials, 5.4 g of the title compound was prepared.

reactant | phenethylamine | 0.2M, 25 ml | C(CC1=CC=CC=C1)N | C8H11N
reactant | trifluoroacetic acid | 0.21M, 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-Trifluoromethyl-1,2,3,4-Tetrahydroisoquinoline | 5.4 g | FC(C1NCCC2=CC=CC=C12)(F)F | C10H10F3N
